US07001917B2
Step 1. 2-[4-(4-Cyclohepta-2,4,6-trien-1-yl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 3-cyclohepta-2,4,6-trien-1-ylpentane-2,4-dione and 2-(4-hydrazinophenyl)ethanol hydrochloride: MS (EI) m/z 306 [M]+.

reactant | 3-cyclohepta-2,4,6-trien-1-ylpentane-2,4-dione | C1(C=CC=CC=C1)C(C(C)=O)C(C)=O | C12H14O2
reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
product | 2-[4-(4-Cyclohepta-2,4,6-trien-1-yl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol | C1(C=CC=CC=C1)C=1C(=NN(C1C)C1=CC=C(C=C1)CCO)C | C20H22N2O
